US05100897
2-n-Butyl-3-(2'-cyanobiphen-4-yl)methyl-5-ethoxycarbonylpyrimidin-4(3H)-one
The title compound is prepared by stirring one equivalent of N-[(2'-cyanobiphen-4-yl)-methyl]valeramidine with diethyl ethoxymethylenemalonate (Aldrich) in a suitable solvent such as methanol or DMF. After the initial adduct is formed, one equivalent of base such as sodium methoxide is added then the material is stirred for an additional period of time, possibly with heating. Standard workup procedures appropriate to the chosen reaction solvent should be followed.

reactant | N-[(2'-cyanobiphen-4-yl)-methyl]valeramidine | one equivalent | C(#N)C1=C(C2=CC=C(C=C2)CNC(CCCC)=N)C=CC=C1 | C19H21N3
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | methanol | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-n-Butyl-3-(2'-cyanobiphen-4-yl)methyl-5-ethoxycarbonylpyrimidin-4(3H)-one | C(CCC)C1=NC=C(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O)C(=O)OCC | C25H25N3O3
